US04348534
37.5 parts of methyl 2-(2',4'-dichlorophenoxy)-propionate and 26.7 parts of N-bromosuccinimide in 300 parts of carbon tetrachloride are boiled under reflux, 0.1 part of azo-bis-isobutyronitrile being added every 45 minutes. The mixture is refluxed until the succinimide formed floats on the solvent. A total reaction time of 10 hours is required. The mixture is then cooled to 0° C. and filtered, and the filtrate is concentrated under reduced pressure. 36.9 parts (82% of theory) of methyl 2-bromo-2-(2',4'-dichlorophenoxy)-propionate, of nD22 =1.5395, are obtained.

reactant | methyl 2-(2',4'-dichlorophenoxy)-propionate | ClC1=C(OC(C(=O)OC)C)C=CC(=C1)Cl | C10H10Cl2O3
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azo-bis-isobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | succinimide | C1(CCC(N1)=O)=O | C4H5NO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 2-bromo-2-(2',4'-dichlorophenoxy)-propionate | 82% | BrC(C(=O)OC)(C)OC1=C(C=C(C=C1)Cl)Cl | C10H9BrCl2O3
